US07521447B2
Step E: (3-tert-Butyl-isoxazol-5-yl)-carbamic acid 4-nitrophenyl ester:
A solution of 3-tert-butyl-isoxazol-5-ylamine (2.50 g, 17.83 mmol) in dichloromethane was treated with pyridine (2 mL, 26.7 mmol) followed by p-nitrophenyl chloroformate (3.77 g, 18.73 mmol). The mixture was stirred at room temperature for 2 hours. The reaction mixture was washed with 1N HCl, filtered, and concentrated under reduced pressure. The residue was triturated with ether and collected by filtration to afford 2.2 g of product (41% yield).

reactant | 3-tert-butyl-isoxazol-5-ylamine | 17.83 mmol, 2.50 g | C(C)(C)(C)C1=NOC(=C1)N | C7H12N2O
reactant | pyridine | 26.7 mmol, 2 mL | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 18.73 mmol, 3.77 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3-tert-Butyl-isoxazol-5-yl)-carbamic acid 4-nitrophenyl ester | 2.2 g, 41% yield | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC(=NO1)C(C)(C)C)=O | C14H15N3O5
